US09169261B2
To a solution of 1-fluoro-4-iodo-benzene (1.47 g, 6.6 mmol, 1.3 eq) and ethyl 1H-pyrazole-3-carboxylate (0.71 g, 5.1 mmol, 1 eq) in 15 mL of toluene was added CuI (0.19 g, 1.0 mmol, 0.2 eq), trans-N,—N-dimethylcyclohexane 1,2-diamine (0.4 mL, 2.5 mmol, 0.2 eq), and potassium carbonate (1.4 g, 10 mmol, 2 eq). The reaction mixture was heated at 110° C. for 2 d then filtered and concentrated. The residue was purified by silica gel column chromatography (hex:EtoAc 4:1) to afford ethyl 1-(4-fluorophenyl)pyrazole-3-carboxylate (0.92 g, 3.9 mmol, 77%).

reactant | 1-fluoro-4-iodo-benzene | 6.6 mmol, 1.47 g, 1.3 eq | FC1=CC=C(C=C1)I | C6H4FI
reactant | ethyl 1H-pyrazole-3-carboxylate | 5.1 mmol, 0.71 g, 1 eq | N1N=C(C=C1)C(=O)OCC | C6H8N2O2
reactant | trans-N,—N-dimethylcyclohexane 1,2-diamine | 2.5 mmol, 0.4 mL, 0.2 eq | CN([C@H]1[C@@H](CCCC1)N)C | C8H18N2
reactant | potassium carbonate | 10 mmol, 1.4 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 1.0 mmol, 0.19 g, 0.2 eq | [Cu]I
product | ethyl 1-(4-fluorophenyl)pyrazole-3-carboxylate | 3.9 mmol, 0.92 g, 77% | FC1=CC=C(C=C1)N1N=C(C=C1)C(=O)OCC | C12H11FN2O2
